US05061705
15 g (65 millimoles) of 6-acetyl-1,2,3,4-tetrahydro-1,1,4,4-tetramethylnaphthalene and 6.5 g (91 millimoles) of hydroxylammonium chloride in 100 ml of pyridine were heated for 1 hour at 80° C. After cooling, the mixture was poured onto water and acidified with 2N hydrochloric acid. The precipitated crystals were filtered off under suction, washed with water and dried. 16 g of 6-[1-hydroximinoethyl]-1,2,3,4-tetrahydro-1,1,4,4-tetramethylnaphthalene were obtained in this manner. 5 g (20 millimoles) thereof and 5 g (20 millimoles) of terephthalic monomethyl ester chloride were combined and were stirred for 6 hours at 120° C. After cooling, the solidified material was dissolved with about 60 ml of methanol. The supernatant methanol phase was decanted and the solid residue was recrystallized twice from chloroform/methanol. 2.5 g of the title compound of melting point 207°-208° C. were obtained in this manner.

reactant | 6-acetyl-1,2,3,4-tetrahydro-1,1,4,4-tetramethylnaphthalene | 65 millimoles, 15 g | C(C)(=O)C=1C=C2C(CCC(C2=CC1)(C)C)(C)C | C16H22O
reactant | hydroxylammonium chloride | 91 millimoles, 6.5 g | [Cl-].O[NH3+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 6-[1-hydroximinoethyl]-1,2,3,4-tetrahydro-1,1,4,4-tetramethylnaphthalene | 16 g | N(O)=C(C)C=1C=C2C(CCC(C2=CC1)(C)C)(C)C | C16H23NO
